US07410966B2
2-(4-Aminophenyl)-6-chloro-N-phenyl-3H-imidazo[4,5-b]pyridin-7-amine
6-Chloro-2-(4-nitrophenyl)-N-phenyl-3H-imidazo[4,5-b]pyridin-7-amine (0.35 g, 1.0 mmol) was dissolved in 50 ml methanol. A catalytic amount of Raney-Nickel was added. The solution was shaken for 45 min under hydrogen pressure (3 atm). The catalyst was filtered off and the solvent removed in vacuo. The crude product was purified by column chromatography on silica, eluting with EtOAc/MeOH 9:1, giving the title product (0.29 g, 85%).

reactant | 6-Chloro-2-(4-nitrophenyl)-N-phenyl-3H-imidazo[4,5-b]pyridin-7-amine | 1.0 mmol, 0.35 g | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)[N+](=O)[O-])NC2=CC=CC=C2 | C18H12ClN5O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney-Nickel | [Ni] | Ni
product | 2-(4-Aminophenyl)-6-chloro-N-phenyl-3H-imidazo[4,5-b]pyridin-7-amine | 0.29 g, 85% | NC1=CC=C(C=C1)C1=NC=2C(=NC=C(C2NC2=CC=CC=C2)Cl)N1 | C18H14ClN5
